US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride (1.90 g) as starting compound and 6-bromo-1-(1-isopropyl-1 H-indol-3-yl)-1-hexanone (1.90 g) were reacted and treated in the same manner as in Example 199 to give 0.70 g of 4-amino-5-chloro-2-methoxy-N-((1-(6-(1-isopropyl-1H-indol-3-yl)-6-oxohexyl)-piperidin-4-yl)methyl)benzamide hydrochloride.

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | 1.90 g | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | 6-bromo-1-(1-isopropyl-1 H-indol-3-yl)-1-hexanone | 1.90 g | BrCCCCCC(=O)C1=CN(C2=CC=CC=C12)C(C)C | C17H22BrNO
product | 4-amino-5-chloro-2-methoxy-N-((1-(6-(1-isopropyl-1H-indol-3-yl)-6-oxohexyl)-piperidin-4-yl)methyl)benzamide hydrochloride | 0.70 g | Cl.NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCC(=O)C2=CN(C3=CC=CC=C23)C(C)C)C=C1Cl)OC | InChI=1S/C31H41ClN4O3.ClH/c1-21(2)36-20-25(23-9-6-7-10-28(23)36)29(37)11-5-4-8-14-35-15-12-22(13-16-35)19-34-31(38)24-17-26(32)27(33)18-30(24)39-3;/h6-7,9-10,17-18,20-22H,4-5,8,11-16,19,33H2,1-3H3,(H,34,38);1H
